US06380387B1
N-[(2-chloro-6-propylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine was prepared from 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester and 2-chloro-6-propylbenzoic acid using the general procedures described in example 15 and was obtained as a white solid: mp 225-227° C. ES-HRMS m/e calcd for C26H28ClN3O5 (M+Na) 520.1611, found 520.1615.

reactant | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C17H21N3O4
reactant | 2-chloro-6-propylbenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)CCC | C10H11ClO2
product | N-[(2-chloro-6-propylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | ClC1=C(C(=CC=C1)CCC)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C26H28ClN3O5
